US06716863B2
(i) 2-(1-{3-[4-(benzyloxy)phenyl]propyl}-1H-imidazol-2-yl)-1-ethanol
Using benzyl 4-(3-iodopropyl)phenyl ether (5.28 g), 2-(2-hydroxyethyl)imidazole (5.05 g) and potassium carbonate (2.07 g), the same reaction as Reference Example 12-(i) was carried out to yield the titled compound (2.78 g) as colorless crystals.

reactant | benzyl 4-(3-iodopropyl)phenyl ether | 5.28 g | ICCCC1=CC=C(C=C1)OCC1=CC=CC=C1 | C16H17IO
reactant | 2-(2-hydroxyethyl)imidazole | 5.05 g | OCCC=1NC=CN1 | C5H8N2O
reactant | potassium carbonate | 2.07 g | C([O-])([O-])=O.[K+].[K+]
product | 2-(1-{3-[4-(benzyloxy)phenyl]propyl}-1H-imidazol-2-yl)-1-ethanol | 2.78 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCCN1C(=NC=C1)CCO | C21H24N2O2
